US07429665B2
4-(1-(4-methoxyphenyl)-1H-imidazol-5-yl)pyridine
4-Methoxyaniline (2.46 g, 20 mmol) and pyridine-4-carboxaldehyde (1.9 mL, 10 mmol) in toluene (110 mL) in a flask attached to a Dean-Stark trap and reflux condensor was heated at reflux. After 40 hours, the reaction was complete by infrared spectral analysis and mass spectral analysis. The toluene was removed via distillation through the Dean-Stark sidearm, the residue was dissolved in methanol (100 mL) and ca. ½ of the crude imine (ca. 10 mmol, 50 mL of methanol solution) was diluted with methanol (20 mL) and 1,2-dimethoxyethane (20 mL). The solution was then treated with potassium carbonate (2.76 g, 20 mmol) and tosylmethylisocyanide (TOSMIC, 2.93 g, 15 mmol) and was heated at reflux for 3 hours. After cooling to room temperature, the solvent was removed in vacuo, and the residue was dissolved in methylene chloride and was washed with brine. The brine layer was extracted with methylene chloride and the combined organic layers were dried (MgSO4), were filtered, and were concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate—hexanes—methanol (80:20:0 to 76:19:5) to afford 1.4 g (56% yield) of the title compound; diagnostic 13C NMR signals (100 MHz, CDCl3) δ 160.039, 150.161, 141.009, 137.240, 130.839, 129.179, 127.287, 121.597, 115.106, 55.801; MS (AP/Cl) 252.4 (M+H)+.

reactant | 4-Methoxyaniline | 20 mmol, 2.46 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | pyridine-4-carboxaldehyde | 10 mmol, 1.9 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | tosylmethylisocyanide | 15 mmol, 2.93 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 mL | CO | CH4O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 4-(1-(4-methoxyphenyl)-1H-imidazol-5-yl)pyridine | 1.4 g, 56% yield | COC1=CC=C(C=C1)N1C=NC=C1C1=CC=NC=C1 | C15H13N3O
